US05298652
Sodium hydroxide hydrolysis of N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy)benzoyl]glycine methyl ester gave a 92% yield of N-(carboxymethyl)-N-[3-nitro-5-(octadecyloxy)benzoyl]glycine, mp 110°-112°.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-methoxy-2-oxoethyl)-N-[3-nitro-5-(octadecyloxy)benzoyl]glycine methyl ester | COC(CN(C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-])=O)CC(=O)OC)=O | C31H50N2O8
product | N-(carboxymethyl)-N-[3-nitro-5-(octadecyloxy)benzoyl]glycine | 92% yield | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-])=O | C29H46N2O8
